US05932567
(b) 3-Amino-4-methylbenzonitrile
120 g of 3-Nitro-4-methylbenzonitrile were suspended in 1.2 l of EtOH and hydrogenated in the presence of 7 g of Pd/C (10%) with 50 l of hydrogen at room temperature. After removal of the catalyst, the solvent was stripped off. 95 g of pure product were obtained (97%). 1H-NMR (DMSO-d6 ; δ in ppm): 7.1 (dd, 1H); 6.90 (d, 1H); 6.85 (dd, 1H); 5.35 (s, 2H, NH2 [sic]); 2.15 (s, 3H)

reactant | 3-Nitro-4-methylbenzonitrile | 120 g | [N+](=O)([O-])C=1C=C(C#N)C=CC1C | C8H6N2O2
reactant | hydrogen | 50 l | [H][H] | H2
solvent | EtOH | 1.2 l | CCO | C2H6O
catalyst | Pd/C | 7 g | [Pd] | Pd
product | 3-Amino-4-methylbenzonitrile | 95 g | NC=1C=C(C#N)C=CC1C | C8H8N2
